US07030107B2
In a similar manner to Example 1, 5-[3,5-bis(trifluoromethyl)benzyl]-9-chloro-7-(2-chlorophenyl)-6-oxo-2,3,4,5-tetrahydro-6H-pyrido[2,3-b][1,5]oxazocine (100 mg) was reacted with 4-(pyrrolidine-1-yl)piperidine (70.2 mg) to obtain 5-[3,5-bis(trifluoromethyl)benzyl]-7-(2-chlorophenyl)-6-oxo-9-[4-(pyrrolidine-1-yl)piperidine-1-yl]-2,3,4,5-tetrahydro-6H-pyrido[2,3-b][1,5]oxazocine (57.7 mg, 48%).

reactant | 5-[3,5-bis(trifluoromethyl)benzyl]-9-chloro-7-(2-chlorophenyl)-6-oxo-2,3,4,5-tetrahydro-6H-pyrido[2,3-b][1,5]oxazocine | 100 mg | FC(C=1C=C(CN2C(C3=C(OCCC2)N=C(C=C3C3=C(C=CC=C3)Cl)Cl)=O)C=C(C1)C(F)(F)F)(F)F | C24H16Cl2F6N2O2
reactant | 4-(pyrrolidine-1-yl)piperidine | 70.2 mg | N1(CCCC1)C1CCNCC1 | C9H18N2
product | 5-[3,5-bis(trifluoromethyl)benzyl]-7-(2-chlorophenyl)-6-oxo-9-[4-(pyrrolidine-1-yl)piperidine-1-yl]-2,3,4,5-tetrahydro-6H-pyrido[2,3-b][1,5]oxazocine | 57.7 mg, 48% | FC(C=1C=C(CN2C(C3=C(OCCC2)N=C(C=C3C3=C(C=CC=C3)Cl)N3CCC(CC3)N3CCCC3)=O)C=C(C1)C(F)(F)F)(F)F | C33H33ClF6N4O2
